US07067506B2
Step 3: (4-Amino-3-methoxy-benzyl)-methyl-carbamic acid tert-butyl ester.
In a 250 mL Parr apparatus, 0.98 g (3.5 mmol) of (3-methoxy-4-nitro-benzyl)-methyl-carbamic acid tert-butyl ester in 40 mL of ethanol was hydrogenated at 2 atm over 300 mg of 10% Pd on carbon for 15 minutes. The catalyst was removed by filtration through a glass fiber filter and the filtrate was concentrated to give a crude product as light yellow oil. 1H NMR (400 MHz, CDCl3): δ6.69 (m, 3H), 3.95 (s, 2H), 3.84 (s, 3H), 2.8 (m, 2H), 2.75 (s, 3H), 1.51 (s, 9H).

reactant | (3-methoxy-4-nitro-benzyl)-methyl-carbamic acid tert-butyl ester | 3.5 mmol, 0.98 g | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C14H20N2O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 300 mg | [Pd] | Pd
product | (4-Amino-3-methoxy-benzyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)N)OC)=O | C14H22N2O3
